US07550478B2
Step 4: (2,5-dichloropyridin-3-yl)(2-fluoro-3-methoxy-6-vinylphenyl)methanone
To a stirred solution of (2,5-dichloropyridin-3-yl)(2-fluoro-3-methoxy-6-vinylphenyl)methanol (11.6 g, 35.3 mmol) in CH2Cl2 (400 mL) was added MnO2 (80 g, 920 mmol). The reaction mixture was allowed to stir overnight, filtered through a pad of Celite, and concentrated to afford the title compound. LRMS (ESI) calc'd for (C15H10Cl2FNO2) [M+H]+, 326.0; found 326.0.

reactant | (2,5-dichloropyridin-3-yl)(2-fluoro-3-methoxy-6-vinylphenyl)methanol | 35.3 mmol, 11.6 g | ClC1=NC=C(C=C1C(O)C1=C(C(=CC=C1C=C)OC)F)Cl | C15H12Cl2FNO2
solvent | CH2Cl2 | 400 mL | C(Cl)Cl | CH2Cl2
catalyst | MnO2 | 920 mmol, 80 g | O=[Mn]=O
product | (2,5-dichloropyridin-3-yl)(2-fluoro-3-methoxy-6-vinylphenyl)methanone | ClC1=NC=C(C=C1C(=O)C1=C(C(=CC=C1C=C)OC)F)Cl | C15H10Cl2FNO2
